US05401739
In 6 ml of N,N-dimethylformamide was suspended 0.8 g of 60% sodium hydride and thereto was added dropwise a solution of 1.98 g of 2-piperidone in 8 ml of N,N-dimethylformamide under a stream of argon and with ice cooling. Then, to the mixture was added dropwise a solution of 2.82 g of 3-methoxybenzyl chloride in 8 ml of N,N-dimethylformamide at room temperature. The mixture was stirred at 65° C. for 8 hours. After cooling, to the reaction mixture were added ice-cold water and the mixture was extracted with diethyl ether. The extract was purified by a silica gel column chromatography (chloroform:methanol=20:1) to give 4.3 g of 1-(3-methoxybenzyl)-2-piperidone. This compound was heated in 10 ml of 47% hydrobromic acid for 12 hours. The mixture was made alkaline with addition of sodium carbonate and extracted with chloroform. After removing the solvent at a reduced pressure, 2.3 g (yield 57%) of 1-(3-hydroxybenzyl)-2-piperidone was obtained.

reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | 2-piperidone | 1.98 g | N1C(CCCC1)=O | C5H9NO
reactant | 3-methoxybenzyl chloride | 2.82 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 1-(3-methoxybenzyl)-2-piperidone | 4.3 g | COC=1C=C(CN2C(CCCC2)=O)C=CC1 | C13H17NO2
